US07632838B2
An oven-dried microwave vial was charged with of 4-(naphthalene-2-sulfonyl)-piperazin-2-one (100 mg, 0.34 mmol), 2-bromo-3-trifluoromethyl pyridine (115.3 mg, 0.51 mmol), powdered anhydrous potassium carbonate (94 mg, 0.68 mmol), and CuI (6.5 mg, 0.034 mmol). The vial was purged and back-filled with N2. Anhydrous 1,4-dioxane (1.2 mL) was added, followed by 3.7 μL (0.034 mmol) of N,N′-dimethyl-1,2-ethylenediamine. The blue suspension was heated in a 110° C. oil bath for 48 hr. After cooling to room temperature, the brown suspension was diluted with H2O and EtOAc. The layers were separated, and the aqueous layer washed with EtOAc (2×). The combined organic layers were dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by prep HPLC to provide 4.8 mg (3.2%) of 4-(Naphthalene-2-sulfonyl)-1-(3-trifluoromethyl-pyridin-2-yl)-piperazin-2-one as a light yellow solid.

reactant | 4-(naphthalene-2-sulfonyl)-piperazin-2-one | 0.34 mmol, 100 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CC(NCC1)=O | C14H14N2O3S
reactant | 2-bromo-3-trifluoromethyl pyridine | 0.51 mmol, 115.3 mg | BrC1=NC=CC=C1C(F)(F)F | C6H3BrF3N
reactant | potassium carbonate | 0.68 mmol, 94 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N′-dimethyl-1,2-ethylenediamine | 0.034 mmol, 3.7 μL | CNCCNC | C4H12N2
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.034 mmol, 6.5 mg | [Cu]I
product | 4-(Naphthalene-2-sulfonyl)-1-(3-trifluoromethyl-pyridin-2-yl)-piperazin-2-one | 4.8 mg, 3.2% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CC(N(CC1)C1=NC=CC=C1C(F)(F)F)=O | C20H16F3N3O3S
